US08859551B2
The 5-bromo-6-isothiocyanato-quinoxaline (3.5 g.) is directly dissolved in benzene (400 ml) and added dropwise to a well-stirred solution of ethylene diamine (15 g.) in benzene (50 ml). During a period of about two hours, an oil separates as a lower layer. The upper benzene layer is poured off and the oil is washed with diethyl ether and then dissolved in methanol (500 ml). The methanolic solution is refluxed until hydrogen sulfide evolution ceases. The methanolic solution is concentrated in vacuo to a volume of approximately 100 ml upon which a yellow solid precipitates. The precipitate is collected by filtration and recrystallized from methanol to afford of (5-Bromo-quinoxalin-6-yl)-(4,5-dihydro-1H-imidazol-2-yl)-amine: m.p. 250-251 C.

reactant | 5-bromo-6-isothiocyanato-quinoxaline | 3.5 g | BrC1=C2N=CC=NC2=CC=C1N=C=S | C9H4BrN3S
reactant | ethylene diamine | 15 g | C(CN)N | C2H8N2
solvent | benzene | 400 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 50 ml | C1=CC=CC=C1 | C6H6
product | (5-Bromo-quinoxalin-6-yl)-(4,5-dihydro-1H-imidazol-2-yl)-amine | BrC1=C2N=CC=NC2=CC=C1NC=1NCCN1 | C11H10BrN5
